US07884207B2
Under a nitrogen atmosphere, tert-butyl 4{[(3-amino-2-chloroquinolin-4-yl)amino]methyl}-4-hydroxypiperidine-1-carboxylate (0.25 g, 0.61 mmol, prepared according to the general methods of Example 4 Parts A through D using 2,4-dichloro-3-nitroquinoline in lieu of 4-chloro-3-nitroquinoline in Part C), toluene (5 mL), pyridine hydrochloride (0.02 g), and triethylorthoformate (0.11 mL, 0.65 mmol) was heated at reflux for 2 hours. More triethylorthoformate (0.5 eq) was added and the reaction mixture was heated for an additional hour. The reaction was rerun in the same manner using 5.25 g of tert-butyl 4 {[(3-amino-2-chloroquinolin-4-yl)amino]methyl}-4-hydroxypiperidine-1-carboxylate. The small and larger scale reaction mixtures were combined and washed with water (50 mL). The aqueous layer was extracted with dichloromethane (2×100 mL). The organic layers were combined and concentrated under reduced pressure. The residue was purified by column chromatography (silica gel eluting with a gradient of 0-10% methanol in ethyl acetate) to provide 4.08 g of tert-butyl 4-[(4-chloro-1H-imidazo[4,5-c]quinolin-1-yl)methyl]-4-hydroxypiperidine-1-carboxylate as a tan frothy solid.

reactant | tert-butyl 4{[(3-amino-2-chloroquinolin-4-yl)amino]methyl}-4-hydroxypiperidine-1-carboxylate | NC=1C(=NC2=CC=CC=C2C1NCC1(CCN(CC1)C(=O)OC(C)(C)C)O)Cl | C20H27ClN4O3
reactant | 2,4-dichloro-3-nitroquinoline | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])Cl | C9H4Cl2N2O2
reactant | 4-chloro-3-nitroquinoline | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | pyridine hydrochloride | 0.02 g | Cl.N1=CC=CC=C1
reactant | triethylorthoformate | 0.65 mmol, 0.11 mL | C(C)OC(OCC)OCC | C7H16O3
reactant | triethylorthoformate | 0.5 eq | C(C)OC(OCC)OCC | C7H16O3
reactant | tert-butyl 4 {[(3-amino-2-chloroquinolin-4-yl)amino]methyl}-4-hydroxypiperidine-1-carboxylate | 5.25 g | NC=1C(=NC2=CC=CC=C2C1NCC1(CCN(CC1)C(=O)OC(C)(C)C)O)Cl | C20H27ClN4O3
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-[(4-chloro-1H-imidazo[4,5-c]quinolin-1-yl)methyl]-4-hydroxypiperidine-1-carboxylate | 4.08 g | ClC1=NC=2C=CC=CC2C2=C1N=CN2CC2(CCN(CC2)C(=O)OC(C)(C)C)O | C21H25ClN4O3
